US07566724B2
Under an argon atmosphere, a solution of N-(4-iodophenyl)pyrimidin-2-amine (255 mg) in anhydrous DMF (1 ml) was added dropwise to a suspension of sodium hydride (40 mg) in anhydrous DMF (1 ml), and the resulting mixture was stirred at room temperature for 75 minutes. Ethyl iodide (0.10 ml) was added dropwise to the reaction solution and the resulting mixture was stirred at room temperature overnight. Saturated brine was added thereto and the resulting mixture was extracted with chloroform. Organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: cyclohexane/chloroform=1/10) to obtain N-(4-iodophenyl)-N-ethylpyrimidin-2-amine (264 mg). NMR (H1, CDCl3): δ 1.23(3H, t, J=6.8 Hz), 4.01 (2H, q, J=6.8 Hz), 6.57 (1H, t, J=4.9 Hz), 7.03-7.06 (2H, m), 7.70-7.74 (2H, m), 8.32 (2H, d, J=4.9 Hz)

reactant | N-(4-iodophenyl)pyrimidin-2-amine | 255 mg | IC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8IN3
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | Ethyl iodide | 0.10 ml | C(C)I | C2H5I
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-(4-iodophenyl)-N-ethylpyrimidin-2-amine | 264 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CC | C12H12IN3
